data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,4338,"C[NH:1]C1=CC=CC=C1.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,443,"CCNCC=C(OC)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7953,"CCO[C:1]1([Cl:2])C=CC=C[N-:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9735,"CCC(=O)O[C:1]1=[CH:2]C=CC=C1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3774,"NC1=[C-:1]N=CC=C1.[H:2][NH2:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8073,"COC(=O)C1(C(=O)OC)CC(C2=CC=CC=C2)C([N:1]=[N+:2]=[N-:3])C1C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8268,"CC=CC=CCCCC(C)C(O)[C:1]1([H:2])C(=O)NC=C(C2=CC=CC=C2)[C:3]1=[O:4].CCO.CC[N:5](CC)CC|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9665,"C1=CC=C(C=[O:1])C=C1.CC(CO)(CO)C(=O)O.CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2022,"C=C(O[Si](C)(C)C)C1=CC=CC=C1.CC(OC(CCC1=CC=CC=C1)[O+]([Si](C)(C)C)[Si-:1](C)(C)(C)[O:2]S(=O)(=O)C(F)(F)F)C1=CC=CC=C1|((1, 2), 2)"
train,pmechdb_split_0,0,10063,"C=CCC([O][Sn-:1]([CH2]C)([CH2]C)([CH2]C)[Cl:2])C1=CC=CC=C1.[Cl][Zn][Cl]|((1, 2), 2)"
train,pmechdb_split_0,0,5954,"CC(Br)C[O:1]C.CO[CH+:2][CH:3](C)[H:4]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,6982,"CC[O+:1](C(=O)NC(C)(C=CC1CC(C)CCC1C(C)C)C(C)C)[H:2].CC[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6571,"CS[CH+:1][O-:2]|(2, 1)"
train,pmechdb_split_0,0,6049,"CC(C)O.CC1=C(CCO)S[C:1]([C:2](O)(C2=CC=CS2)[H:3])=[N+:4]1CC1=CC=CC=C1.CC[N:5](CC)CC.O=C(C=CC1=CC2=C(C=C1)OCO2)C1=CC=CS1.[Cl-]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,2697,"CC(C)[N-:1]C(C)C.C[C:2](=[CH:3][H:4])[Br:5]|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,5818,"C1=CC=C([C:1]2([H:2])[C:3]3=[C:4](C=CC=C3)[C:5](C3=CC=CC=C3)=[O+:6]2)C=C1.CO.O=C([O-])C(F)(F)F.[Mg+][Br].[OH2:7]|(7, 2);((2, 1), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,3034,"C1CCOC1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCCCCCOC(O)(C1=CC(O)=C(O)C=C1)[OH:1].CCCCCCCC[OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,592,"CNC(=O)C(CC1=CC(I)=C([O-:1])C=C1)NC(C)=O.ClC[N+]12CCN(CC1)CC2.F[B-](F)(F)F.O=P([O-])(O)[O:2][H:3].[F-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9729,"CC1=CO[CH:1]=[CH:2]1.[Br:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9751,"CC(C)[C+:1](C)C.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,2240,"CC[O-:1].O=C1CCCC[C:2]1([H:3])[CH:4]=[O:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6788,"CN[C:1](OCC[O-:2])=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3379,"C=CC(O)(OC(C)=O)[S+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,528,"CC(C)=O.CC1=CC=C(C2CCC(OCCO)([OH+:1][H:2])CC2)C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7205,"C[CH2:1][Br:2].C[CH:3]=[C:4](C)[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6773,"CC[OH+]CC.C[N+:1](C)=[CH:2]C(C1=CC=C(O)C=C1)C(=[O+][B-](F)(F)F)C1=C([OH:3])C=C(O)C=C1O.O=P(Cl)(Cl)Cl.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2278,"CC(=O)O.CC(=O)O[I+:1]1([O:2][C:3](C2=CCCN3C(=O)CCC23)(C2C(=O)C=CCC2C)[H:4])OC(=O)C2=C1C=CC=C2.CC(=O)[O-:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1700,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])C=CC=C[CH+:4]1|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,1258,"CC1=CC=C(S(=O)(=O)OC(C)CCO[S:1](=O)(C(F)(F)F)([O-:2])[O:3]S(=O)(=O)C(F)(F)F)C=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6088,"C[S+](OCC1=CC=CC=C1)[CH2:1][H:2].O=C(O)[O-:3].[Br-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,477,"CCC(C)C(C(=O)O)[NH2:1].CO.[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1599,"CCNC(Cl)(CCC(=O)OC(C)=O)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3159,"C[C:1]1([OH2+:2])SCC[S:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2755,"CCO[CH:1]([N:2]=[C:3](C1CCCC1)[S:4](=O)(=O)C1CCC(C)CC1)[O-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2132,"CC(=O)[O-:1].CC(C)(C)CC(=O)CC#N.CC1=CC=C(C(O)[N+:2]2([H:3])CCCCC2)C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8002,"CC(C1=CC=CC=C1)[N+:1](C)([CH:2](CC(C)(C)O)[CH:3]=[CH:4]C)[O-:5].O=C(O)C1=CC=CC(Cl)=C1|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,8229,"C1CC[NH2+]CC1.O=C(CNC(=O)[O:1][CH2:2][C-:3]1C2=C(C=CC=C2)C2=C1C=CC=C2)NC1=CC=C(Cl)C=C1I|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,837,"CC12CCC3(CC1CCC2=O)OCC[O+:1]3[H:2].O.O=C(O)C(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2433,"C=CCOC1OC(COC(C)=O)C2OC(C)(C)[O:1]C2C1OC(C)=O.CC(=O)[O:2][H:3].O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2883,"C=C[CH2:1][Mg:2][Br].O=S(=O)(O)[O:3][H:4]|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,121,"C=C[N+:1](C)(C)[H:2].CC#[C-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8918,"C[Si](C)(C)O[Si](C)(C)C.C[Si](C)(C)[O:1]CCO[C:2]1=[O+:3]C2=C(C=CC=C2)CC1.O=S(=O)([O-])C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5476,"CCO[S+](C)[CH2:1][H:2].C[N-:3]C|(3, 2);((2, 1), 1)"
